US08535974B2
Synthesis of 9-(4-(bicyclo[4.2.0]octa-1(6),2,4-trien-3-yl)butyl)-9-(4-(bicyclo[4.2.0]octa-1,3,5-trien-3-yl)butyl)-2,7-dibromo-9H-fluorene
To an oven-dried three-neck round-bottom flask under nitrogen, were added 25.97 g of 2,7-dibromofluorene, 32.06 g sodium hydroxide, 1.33 g KI, and 300 mL anhydrous DMSO. The 46 g 3-(4-bromobutyl)bicyclo[4.2.0]octa-1(6),2,4-triene 300 mL anhydrous DMSO was added via cannula. The reaction was heated to 80° C. After 4 hours, the reaction was quenched by the addition of DI water (10 mL). The excess salt was removed by filtration. 500 mL Ethyl acetate was added, and extracted with DI water (3×300 mL) and brine (3×300 mL). The combined organic layer was dried over anhydrous magnesium sulfate. Magnesium sulfate was removed by filtration, and the solvent was removed by rotary evaporation. The product (43 g) was purified by flash chromatography using hexane. The structure was confirmed by NMR.

reactant | 2,7-dibromofluorene | 25.97 g | BrC1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C13H8Br2
reactant | sodium hydroxide | 32.06 g | [OH-].[Na+]
reactant | 3-(4-bromobutyl)bicyclo[4.2.0]octa-1(6),2,4-triene | 300 mL, 46 g | BrCCCCC1=CC=2CCC2C=C1 | C12H15Br
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
product | 9-(4-(bicyclo[4.2.0]octa-1(6),2,4-trien-3-yl)butyl)-9-(4-(bicyclo[4.2.0]octa-1,3,5-trien-3-yl)butyl)-2,7-dibromo-9H-fluorene | C1=2C=C(C=CC2CC1)CCCCC1(C2=CC(=CC=C2C=2C=CC(=CC12)Br)Br)CCCCC=1C=C2CCC2=CC1 | C37H36Br2
